US04135943
A simulated kanamycin culture broth is prepared by sterilizing 160 ml glucose-bouillon medium under heating at 120° C for 15 minutes and adding kanamycin sulfate with 60 mg activity thereto. Then, the solution is passed through a column, 2 cm in diameter, wherein 6 g (dry weight) selective adsorbents containing activated charcoal as obtained in Example 1, after being sufficiently swelled with water, are packed, at the rate of 0.5 ml/minute. The column is then washed and further eluted with 0.1N HCl-methanol (1 : 1). Active fractions are combined, wherefrom kanamycin with 54 mg activity (90% recovery) is obtained in high purity and high yield (decoloration degree: 99%; purity: 98%).

reactant | glucose | 160 ml | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | kanamycin sulfate | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N.OS(=O)(=O)O
solvent | water | O | H2O
product | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
